US07495006B2
9-[cis-3-(Triisopropyl-siloxyethyl)cyclobutyl]adenine
In a 25 mL three-neck flask with trans-3-(triisopropyl-siloxyethyl)cyclobutyl -mesylate (0.27 g, 7.7 mmol), adenine (0.16 g, 1.18 mmol) and Cs2CO3 (0.38 g, 1.17 mmol) inside, dry DMF 5 mL was added under argon. Then began to heat to 120° C. and after 24 hr, the solvent was removed and directly applied to silica gel flash chromatography to give 0.14 g (47%) the desired product. 1H NMR (CDCl3, 400 MHz): δ 0.99-1.05 (m, 21H), 1.72-1.78 (m, 2H), 2.15-2.23 (m, 2H), 2.60-2.79 (m, 3H), 3.67-3.70 (t, J=6.0, 2H), 4.81-4.90 (m, 1H), 6.37-6.39 (bs, 2H), 7.88 (s, 1H), 8.31 (s, 1H). 13C NMR (CDCl3, 100 MHz): δ 12.08, 18.17, 26.60, 37.03, 39.84, 45.86, 61.64, 138.76, 140.09, 150.07, 152.91, 155.93. MS (FAB): expected for C20H35N5OSi (M+H)+ 390.61. Found 390.26828. IR (neat) νmax 2942, 2865, 1670, 1604, 1571, 1463, 1415, 1308, 1246, 1108, 882, 681, 658.

reactant | trans-3-(triisopropyl-siloxyethyl)cyclobutyl -mesylate | 7.7 mmol, 0.27 g | C(C)(C)C(C(O[SiH3])(C(C)C)C(C)C)[C@@H]1C[C@H](C1)CS(=O)(=O)[O-]
reactant | adenine | 1.18 mmol, 0.16 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | Cs2CO3 | 1.17 mmol, 0.38 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 9-[cis-3-(Triisopropyl-siloxyethyl)cyclobutyl]adenine | 0.14 g, 47% | C(C)(C)C(C(O[SiH3])(C(C)C)C(C)C)[C@H]1C[C@H](C1)N1C2=NC=NC(=C2N=C1)N | C20H35N5OSi
